Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___
 
Chief Complaint:
Positive catheter tip cultures 
 
Major Surgical or Invasive Procedure:
Midline placed ___ 
 
History of Present Illness:
HISTORY OF THE PRESENTING ILLNESS:  
 Ms. ___ is a ___ with complex PMH including POTS on home IVF, 
recently admitted due to c/f infected tunneled line (line 
removed but cx were negative), now ___ because tip 
culture positive for pseudomonas and strep.  
 The patient was recently admitted from ___ after 
developing erythema and swelling around her tunneled line site. 
This was removed, and a left upper extremity midline was placed. 
She does not tolerate many tape adhesives, and her erythema was 
felt to be due to contact dermatitis. She did not receive 
antibiotics. Culture tip ended up growing Pseudomonas and beta 
strep group G, so she was referred to the ED for further 
evaluation. While in the ED, the patient reported feeling well 
except for some pain and redness around her new LUE midline. 
Endorses chronic ___ fevers and chills. No chest pain, 
palpitations, SOB.  
 
 In the ED, initial vitals were: 5 99.4 ___ 18 100% RA  
 - Exam notable for: Erythema around former tunneled line site 
on R chest, no prurulence or fluctuance. Erythema and edema 
around LUE midline IV.  
 - Labs notable for: lactate 2.8, Na 139, Cre 0.7  
 - Imaging was notable for: left upper extremity ultrasound 
without evidence of DVT.  
 - Patient was given: cefepime 2g IV x 1, Penicillin G, and LR  
 - Vitals prior to transfer: 98.4 83 105/71 14 97% RA  
 
 Upon arrival to the floor, patient reports overall feeling 
well. She noted having increased redness and pain around her LUE 
midline over the past few days. Has low grade temperatures and 
night sweats at baseline. Also endorses nonproductive cough. Has 
chronic abdominal pain that is unchanged. Bowel movements stable 
at ___.  

 
Past Medical History:
 1. Tension headaches.  
 2. Slow transient constipation.  
 3. Depression.  
 4. Fatigue.  
 5. History of bilateral ovarian cysts.  
 6. History of drug and alcohol abuse.  
 7. Anxiety.  
 8. Depression.  
 9. History of gastritis and peptic ulcer disease.  
 10. Rheumatologic manifestations: Musculoskeletal pain,faint 
transient malar rash. Lab work up negative for ___, dsDNA, Ro, 
La, Sm, RNP, normal urinalysis, normal CBC, BUN and creatinine, 
and LFTs.  
 Rheumatologist has ruled out SLE.  
 11. Inflammatory arthropathy - polyarticular joint pain since  
 ___, negative work up.  
 12. Chronic fatigue syndrome  
 13. Vitamin D deficiency  
 14. Hypothyroidism  
 15. Hx of DVT - at the age of ___ (told it was when she was  
 playing soccer?)  
 16. GERD  
 17. Neuropathy  
 
 
Social History:
___
Family History:
 Mother with no cancer  
 Father- unsure  
 2 brothers and sister are alive and well  
 PGM with breast cancer, DM, CVD, HTN  
 MGM - breast cancer, DM, HLD, HTN  
 No history of blood clots or bleeding disorders  
 
Physical Exam:
ADMISSION EXAM
==============
Vital Signs: 98.8PO 144 / 78 R Sitting 79 18 98 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, dry mucous membranes, oropharynx 
clear, EOMI, PERRL.  
Skin: About 8 cm erythematous patch across right chest; 
nontender to palpation; Left upper extremity with erythematous 
patch over midline with pain on palpation  
Neck: Supple. JVP not elevated. no LAD  
CV/Chest: Regular rate and rhythm. Normal S1+S2, no murmurs, 
rubs, gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, ___ abdominal incisions, mild tenderness 
to palpation in lower quadrants.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: ___ intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  

DISCHARGE EXAM
==============
VITALS: 98.6, 107/78, 73 18 99 RA  
General: Alert, oriented, no acute distress 
HEENT: Sclerae anicteric, MMM, oropharynx clear, nose piercing  
Neck: supple, JVP not elevated, no LAD, no warmth, redness, 
swelling or tenderness to palpation  
Chest: 6x6cm erythematous plaque with fading minimal erythema. 
no warmth  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, hyperactive bowel sounds, well healed laproscoic 
surgical scars, NT/ND.  
Ext: multiple tatooes, WWP, 2+ pulses, no clubbing, cyanosis or 
edema. Left arm with mild swelling in antecubital fossa with 
erythema at site of prior midline.   
Neuro: ___ intact, strength ___ bilateral upper and lower 
extremities.   

 
Pertinent Results:
ADMISSION EXAM
==============

___ 07:34PM   PLT ___
___ 07:34PM   ___ 
___ IM ___ 
___
___ 07:34PM   ___ 
___
___ 07:34PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 07:42PM   ___

DISCHARGE EXAM
==============

___ 07:15AM BLOOD ___ 
___ Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD ___ 
___

MICRO
=====
WOUND CULTURE (Final ___: 
PSEUDOMONAS AERUGINOSA.    >15 COLONIES. 
BETA STREPTOCOCCUS GROUP G.    <15 COLONIES. 

SENSITIVITIES: MIC expressed in MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     4 S
CEFTAZIDIME-----------     8 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----    16 S
TOBRAMYCIN------------   <=1 S

STUDIES
=======
Left upper extremity ultrasound 
No evidence of deep vein thrombosis in the left upper extremity. 


 
Brief Hospital Course:
SUMMARY
=======
___ with PMHx of ovarian cysts, severe chronic pain, POTS, PUD, 
substance abuse with recent admission from ___ for contact 
dermatitis and removal of right chest tunneled line, who 
represented to the hospital given catheter tip growing 
Pseudomonas. She was given broad spectrum antibiotics to cover 
Pseudomonas on admission. ID was consulted and antibiotics were 
discontinued given negative blood cultures (from previous 
admission when tunneled line was removed), afebrile without 
leukocytosis and source control (with tunneled line removal). 
She had a midline placed and sutured by ___. She was discharged 
to home with ___ services and home IVF. She will have 
surveillance blood cultures drawn by PCP ___ week and 
coordinate replacement of tunneled line in the outpatient 
setting. 

ACTIVE ISSUES 
=============

# Tunneled catheter, line tip infection without bacteremia. 
Tunneled line tip (removed during previous admission 1 week 
prior) grew Pseudomonas. She was initially given IV antibiotics 
in the ED for treatment and received ___ extra doses of 
Zosyn->Cefepime. She was afebrile without leukocytosis. ID was 
consulted and recommended discontinuation of antibiotics given 
that infected line had been removed, blood cultures were 
negative, and she was afebrile without s/s systemic toxicity. 
Antibiotics were stopped and she remained clinically stable for 
>24 hours prior to discharge.  

# Left ___ erythema. 
# Chronic dehydration 
# h/o POTS. Patient has home IV hydration needs, ___ daily. 
During previous admission a midline was placed in the left arm. 
She presented this admission with midline nearly 100% dislodged. 
An erythema corresponding to insertion site of midline was most 
likely contact/irritant dermatitis reaction. Midline was removed 
and topical treatment was applied to area. After discussion with 
IV team, a new midline was placed in the right upper extremity 
with ___ (sutured in place) with plans for replacement of 
tunneled line in the outpatient setting. Plan will be to obtain 
surveillance cultures in ___ weeks and then proceed with 
placement of tunneled line. 

CHRONIC ISSUES 
==============

# Recurrent DVT (RLE ___ after ankle surgery, and PICC assoc'd 
DVT x2 in ___. Followed by Dr. ___ in ___ ___. 
Maintained on 1.5mg/kg daily (90mg rounded to 80mg vial size) 
Lovenox once daily for treatment.
# Anxiety/Depression. Continued Venlafaxine 150mg BID.  
# Severe chronic pain. Follow by ___ pain center, last seen in 
___. Continued home regimen of Tizanidine 
# H/o substance abuse. Per records. Not discussed with patient 
directly. Has outpatient follow up.
# Subtotal colectomy. BM ___ times/day, at current baseline. IVF 
repletion provided daily prn. No electrolyte abnormalities 
suggestive of dehydration. 
# ___ disc buldge with neural foraminal stenosis. 
Resulting in chronic intermittently right hand parasthesias. At 
current baseline. 

TRANSITIONAL ISSUES 
===================
PCP ___ placed ___ (and sutured in place by ___ for 
temporary use at home for IVF and IV Vitamin administration, 
with coordination of replacing tunneled catheter to be 
coordinated by PCP when indicated. 
- Will need repeat surveillance blood cultures within ___ of 
discharge to ensure negative prior to tunneled line placement 
per ___ and IV team at ___
- Wound care recs: Recommend using Duoderm thin as a platform 
around line sites so occlusive dressing is not directly on 
patient's skin. 
- Per inpatient wound care team, recommend Dermatology follow up 
as outpatient for possible patch testing. Appointment made 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cholestyramine 4 gm PO TID:PRN diarrhea 
2. DiphenhydrAMINE ___ mg PO QHS:PRN insomnia, pain  
3. Enoxaparin Sodium 80 mg SC Q24H 
4. Loratadine 10 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Psyllium Wafer 1 WAF PO BID 
7. Tizanidine ___ mg PO QHS:PRN pain  
8. TraZODone 100 mg PO QHS:PRN insomnia 
9. Venlafaxine 150 mg PO BID 
10. Desonide 0.05% Cream 1 Appl TP DAILY PRN  rash  
11. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
12. Chlorpheniramine Maleate 4 mg PO TID 
13. LOPERamide ___ mg PO TID:PRN diarrhea  
14. LORazepam 0.5 mg PO DAILY:PRN anxiety  
15. Melatonin (with B6) ___ (vit B6)) ___ mg 
oral DAILY 
16. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
17. Prochlorperazine 5 mg PO Q6H:PRN nausea 
18. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  ___ 1 TAB PO Q6H:PRN diarrhea  
RX ___ [Lomotil] 2.5 ___ mg 1 tablet(s) 
by mouth four time a day as needed for diarrhea Disp #*30 Tablet 
Refills:*0 
2.  Enoxaparin Sodium 80 mg SC DAILY  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Cetirizine 10 mg PO DAILY  
5.  Chlorpheniramine Maleate 4 mg PO TID  
6.  Cholestyramine 4 gm PO TID:PRN diarrhea  
7.  Desonide 0.05% Cream 1 Appl TP DAILY PRN  rash   
8.  DiphenhydrAMINE ___ mg PO QHS:PRN insomnia, pain   
9.  Loratadine 10 mg PO DAILY  
10.  LORazepam 0.5 mg PO DAILY:PRN anxiety   
11.  Melatonin (with B6) ___ (vit B6)) ___ mg 
oral DAILY  
12.  Multivitamins 1 TAB PO DAILY  
13.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
14.  Prochlorperazine 5 mg PO Q6H:PRN nausea  
15.  Psyllium Wafer 1 WAF PO BID  
16.  Tizanidine ___ mg PO QHS:PRN pain   
17.  TraZODone 100 mg PO QHS:PRN insomnia  
18.  Venlafaxine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
Catheter tip Pseudomonas 

Secondary Diagnosis 
POTS
Recurrent DVT 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

It was a pleasure taking care of you during your hospitalization 
at ___. Briefly, you were admitted after cultures from your 
catheter tip grew out bacteria. You were initially given 
antibiotics but these were stopped after the Infectious Disease 
doctors suggested that ___ did not need these medications. You 
had a midline placed and sutured in place with our radiologists 
and should discuss with Dr. ___ in the clinic about 
scheduling an appointment to have a tunneled catheter line 
replaced. Please coordinate with Dr. ___ having 
repeat blood cultures drawn in 2 weeks in clinic. 

Please continue with the recommendations that Dr. ___ 
___ 
- ___ fluid intake of ___
- Eat small meals (helps avoid postprandial vasodilation)
- Start exercise program; 
h
t
t
p
:
/
/
s
t
a
n
d
i
n
g
u
p
t
o
p
o
t
s
.
o
r
g
/
f
n
u
w
i
f
h
___
r
y
___
___

We wish you the best, 

Your ___ Treatment Team 
 
Followup Instructions:
___